* SIM 2: HVAWG V2 changes on the class-A output stage alone, 100 kHz, FET = STW11NM80 (LTspice standard.mos model), Rg1=100 as in the old sim
* Starts from the verified baseline transcription (sim2_classA_repro_*.cir, which reproduces
* ../class-a-amplifier-test-*.asc exactly) and adds the V2 parts:
*   R28 = 100k gate-source, D4 = BZT52C12 zener (cathode on GATE, anode on SOURCE)
*   R31 = 4.7k series from TP5 (Q1 drain / amplifier output) to TP6 (output_post);
*         the scope load (10Meg || Cload) moves from TP5 to TP6.
* Baseline stage values kept on purpose for continuity with the old sims: R3=50 (board R22=75),
* rails +/-150 V, source SINE(0.75 0.75 100k) referenced to -HV, .tran/.options unchanged.
*
* VAR (stepped):  0 = baseline stage (+10Meg scope, R31 replaced by 1 ohm, no R28/D4)
*                 1 = + R28/D4 only      2 = + R31 only      3 = full V2 (R28/D4 + R31)
* Cz = zener junction capacitance (45p datasheet-typical nominal, 100p worst-case assumption)
*
* Node map: TP5 = drain / amp output, TP6 = output_post (after R31), SRC = source (U -IN),
*           G = FET gate pin, OA = opamp output, NHV = -150 V rail, PHV = +150 V rail,
*           VCC = -HV + 12 V floating opamp supply
*
.param VAR=3 Cload=10p Cz=45p Rg=100
.param ZEN={(VAR==1)+(VAR==3)}
.param R31ON={VAR>=2}
XU1 IN SRC VCC NHV OA LM8261
M1 TP5 G SRC SRC STW11NM80
Rg1 OA G {Rg}
R3 SRC NHV 50
R2 PHV TP5 10k
* --- V2 gate protection. ZEN=0 removes it: R28 -> 1T, zener cut from G (1T) and shorted to SRC (1 ohm) ---
R28 G SRC {if(ZEN,100k,1T)}
RZS G DK {if(ZEN,1,1T)}
RZS2 DK SRC {if(ZEN,1T,1)}
D4 SRC DK DZ12
* --- V2 output series resistor (1 ohm when R31ON=0) and scope load at TP6 ---
R31 TP5 TP6 {if(R31ON,4.7k,1)}
C1 TP6 0 {Cload}
RSCOPE TP6 0 10Meg
* --- sources (unchanged from baseline) ---
V3 PHV 0 150
V_neg NHV 0 -150
V2 IN NHV SINE(0.75 0.75 100k)
V1 N12 NHV 12
R1 N12 VCC 1
.step param VAR list 0 1 2 3
.step param Cload list 10p 20p
.step param Cz list 45p 100p
.tran 0 50u 30u 5n
.options method=gear plotwinsize=0 gminsteps=500 cshunt=1e-12 itl4=500
.meas tran tp5_max max V(TP5)
.meas tran tp5_min min V(TP5)
.meas tran tp5_pp pp V(TP5)
.meas tran tp6_max max V(TP6)
.meas tran tp6_min min V(TP6)
.meas tran tp6_pp pp V(TP6)
.meas tran vgs_max max V(G,SRC)
.meas tran vgs_min min V(G,SRC)
.meas tran voa_max max V(OA,NHV)
.meas tran iz_max max I(D4)
.meas tran iz_min min I(D4)
* BZT52C12 approximation (datasheet-typical assumptions): BV=12 V, Cjo swept via Cz
.model DZ12 D(Is=1e-14 Rs=5 BV=12 Ibv=5m Cjo={Cz} M=0.4 Vj=0.75)
* STW11NM80 comes from LTspice standard.mos
.lib C:\Users\lawre\AppData\Local\LTspice\lib\cmp\standard.mos
.include ../LM8261.MOD
.end
